* D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\Final Combo\Radiation_to_OBC.asc
R1 N001 N008 69
C1 N007 N006 230p
V2 Comp_Vs+ 0 5
R2 CSP N001 69k
C3 CSP N001 420p
V1 N006 0 PULSE(35 26.9 0 1e-9 300e-9 0 1e-6)
C2 N008 N007 10n
C6 0 Comp_Vs+ 10n
C7 0 -5V 10n
C5 Comp_Vs+ 0 10µ
C8 0 -5V 10µ
R3 0 HPF 200
C4 HPF CSP 100p
R5 N004 HPF 100
R6 0 SKF 1k
C14 SKF N004 200p
R7 N010 N004 100
C15 N010 0 69p
XU2 N010 SKF Comp_Vs+ -5V SKF MAX4225
C21 0 Comp_Vs+ 10n
C22 Comp_Vs+ 0 10µ
C23 0 -5V 10n
C24 0 -5V 10µ
R4 HPF CSP 10k
C9 0 Comp_Vs+ 10n
C10 Comp_Vs+ 0 10µ
C13 0 -5V 10n
C16 0 -5V 10µ
XU3 SKF N012 Comp_Vs+ -5V PS_Out MAX4225
R9 0 N012 1k
R10 N012 PS_Out 2k
XU4 PS_Out N003 Comp_Vs+ 0 N002 LT1720
XU1 0 N001 Comp_Vs+ -5V CSP MAX4223
A5 0 D0 D1 D2 D3 0 N017 0 OR Vhigh=2.5, Vlow=0.4, Ref=1.15 Trise=1.5e-9, Td=6e-9, Cout=3e-12
V3 -5V 0 -5V
V4 3.3V 0 3.3
C17 0 Comp_Vs+ 10n
C18 Comp_Vs+ 0 3µ
V5 N003 0 0.15
XU5 PS_Out N009 Comp_Vs+ 0 N005 LT1720
V6 N009 0 0.35
XU6 PS_Out N014 Comp_Vs+ 0 N013 LT1720
V7 N014 0 0.85
XU7 PS_Out N016 Comp_Vs+ 0 N015 LT1720
V8 N016 0 2.85
A1 3.3V 0 N002 0 CLR 0 D0 0 DFLOP Vhigh=2.4, Vlow=0.4, Ref=2 Trise=1.2e-9, Td=6e-9
A2 3.3V 0 N005 0 CLR 0 D1 0 DFLOP Vhigh=2.4, Vlow=0.4, Ref=2 Trise=1.2e-9, Td=6e-9
A3 3.3V 0 N013 0 CLR 0 D2 0 DFLOP Vhigh=2.4, Vlow=0.4, Ref=2 Trise=1.2e-9, Td=6e-9
A4 3.3V 0 N015 0 CLR 0 D3 0 DFLOP Vhigh=2.4, Vlow=0.4, Ref=2 Trise=1.2e-9, Td=6e-9
A8 EXTI 0 0 0 0 0 ISR_entry 0 BUF Vhigh=4.9, Vlow=-0.4, Ref=1.9 Trise=1e-15, Td=375e-9
A10 R+S_0 0 0 0 0 0 R+S_1 0 BUF Vhigh=3.3, Vlow=0.0, Ref=1e-6 Trise=0,Td=31.25e-9
S1 3.3V CLR CLR_H CLR_L SW
R11 CLR 0 1
A9 ISR_entry 0 0 0 0 0 R+S_0 0 BUF Vhigh=3.3, Vlow=0.0, Ref=1e-6 Trise=0, Td=31.25e-9
A11 Timestamp 0 0 0 0 0 CLR_H 0 BUF Vhigh=3.3, Vlow=0.0, Ref=1e-6 Trise=10e-9, Td=31.25e-9
A12 CLR_H 0 0 0 0 0 CLR_L 0 BUF Vhigh=3.3, Vlow=0.0, Ref=1.9 Trise=10e-9, Td=31.25e-9
A13 CLR_L 0 0 0 0 0 ISR_Exit 0 BUF Vhigh=4.9, Vlow=-0.4, Ref=1.9 Trise=0, Td=312.5e-9
A6 N017 N017 N017 N017 N017 0 EXTI 0 OR Vhigh=2.5, Vlow=0.4, Ref=1.15 Trise=1.5e-9, Td=6e-9, Cout=3e-12
A14 R+S_1 0 0 0 0 0 R+S_2 0 BUF Vhigh=3.3, Vlow=0.0, Ref=1e-6 Trise=0,Td=31.25e-9
A16 R+S_2 0 0 0 0 0 R+S_3 0 BUF Vhigh=3.3, Vlow=0.0, Ref=1e-6 Trise=0,Td=31.25e-9
A17 R+S_3 0 0 0 0 0 Timestamp 0 BUF Vhigh=3.3, Vlow=0.0, Ref=1e-6 Trise=0,Td=31.25e-9
.tran 0 1e-6 0 1e-9
.model SW SW(Ron=1e-15, Vt=1.9, Vh=0.1)
.lib D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\MAX4223\max4223.fam
.lib LTC.lib
.backanno
.end
